US08314088B2
N-benzyl-6-chloro-N-(1-methylethyl)pyrazin-2-amine
A mixture of 2,6-dichloropyrazine (7.45 g), N-benzylpropan-2-amine (12.5 mL), potassium carbonate (10.4 g) and DMA (50 mL) was stirred at 80° C. for 15 hr. Water (100 mL) was added, and the mixture was extracted with ethyl acetate.

reactant | 2,6-dichloropyrazine | 7.45 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | N-benzylpropan-2-amine | 12.5 mL | C(C1=CC=CC=C1)NC(C)C | C10H15N
reactant | potassium carbonate | 10.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMA | 50 mL | CC(=O)N(C)C | C4H9NO
solvent | Water | 100 mL | O | H2O
product | N-benzyl-6-chloro-N-(1-methylethyl)pyrazin-2-amine | C(C1=CC=CC=C1)N(C1=NC(=CN=C1)Cl)C(C)C | C14H16ClN3
